US06506762B1
C. (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl){2-methyl-6-[(2,4,6-trimethylphenyl)amino]pyrimidin-4-yl}amine
Heat a solution of 2-(4-ethoxy-3methoxy-phenyl)-N-{2-[2-methyl-6-(2,4,6-trimethyl-phenylamino)-pyrimidin-4-ylamino]ethyl}-acetamide (0.324 g, 0.68 mmol) in THF (10 mL) with AlH3.NMe2Et (14 mL, 6.78 mmol) to reflux for 14 h. Cool the resulting mixture to ambient temperature, quench with Na2CO3.10H2O (1.0 g) and stir at ambient temperature for 15 min. Filter the solution through Celite and wash with several portions of CH2Cl2. Concentrate the filtrate in vacuo to dryness and purify by preparative TLC (10% MeOH in CH2Cl2) to obtain the title compound.

reactant | 2-(4-ethoxy-3methoxy-phenyl)-N-{2-[2-methyl-6-(2,4,6-trimethyl-phenylamino)-pyrimidin-4-ylamino]ethyl}-acetamide | 0.68 mmol, 0.324 g | C(C)OC1=C(C=C(C=C1)CC(=O)NCCNC1=NC(=NC(=C1)NC1=C(C=C(C=C1C)C)C)C)OC | C27H35N5O3
reactant | AlH3 | [AlH3]
reactant | NMe2Et | 6.78 mmol, 14 mL | N(C)(C)CC | C4H11N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl){2-methyl-6-[(2,4,6-trimethylphenyl)amino]pyrimidin-4-yl}amine | C(C)OC1=C(C=C(C=C1)CCNCCNC1=NC(=NC(=C1)NC1=C(C=C(C=C1C)C)C)C)OC | C27H37N5O2
